US07691882B2
2-(4-Methyl-benzyl)-5-(2-nitro-ethyl)-thiophene
To a dimethyl sulfoxide (20.0 mL) solution of 2-(4-methyl-benzyl)-5-((E)-2-nitro-vinyl)-thiophene (1.20 g, 4.63 mmol) described in Manufacturing Example 92-1-3 and acetic acid (1.20 mL) was added sodium borohydride (280 mg, 7.41 mmol) at room temperature while cooling appropriately under nitrogen atmosphere, which was stirred for 20 minutes at room temperature. Water was then added dropwise at room temperature while cooling appropriately. The reaction mixture was extracted with ethyl acetate, and the organic layer was washed with water and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure, and the residue was crystallized with a tetrahydrofuran-ethyl acetate-heptane system and filtered to obtain the title compound (525 mg, 43.4%).

reactant | dimethyl sulfoxide | 20.0 mL | CS(=O)C | C2H6OS
reactant | 2-(4-methyl-benzyl)-5-((E)-2-nitro-vinyl)-thiophene | 4.63 mmol, 1.20 g | CC1=CC=C(CC=2SC(=CC2)\C=C\[N+](=O)[O-])C=C1 | C14H13NO2S
reactant | acetic acid | 1.20 mL | C(C)(=O)O | C2H4O2
reactant | sodium borohydride | 7.41 mmol, 280 mg | [BH4-].[Na+]
solvent | Water | O | H2O
product | 2-(4-Methyl-benzyl)-5-(2-nitro-ethyl)-thiophene | 525 mg, 43.4% | CC1=CC=C(CC=2SC(=CC2)CC[N+](=O)[O-])C=C1 | C14H15NO2S
